US05976486
Synthesis of 2,6Bis(4-phosphonobutyloxy)-naphthalene (NAP) (Formula: H2O3P--(CH2)4O--2,6-naphthalene--O(CH2)4 --PO3H2).
1.34 g of KOH in ethanol were added dropwise to a mixture of 2,6-dihydroxynaphthalene (1.6g, 10 mmol) and diethyl(4-bromobutyl)phosphonate (6.0 g, 22 mmol) in ethanol, the mixture was left at room temperature for over night. The product was extracted with CH2Cl2. The CH2Cl2 solution was dried, leaving a brownish solid. The ester was purified by column chromatography. The bisphosphonate ester was converted to the acid by overnight stirring with 4-fold excess of bromotrimethylsilane in dry dichloromethane followed by addition of water. The bisphosphonic acid derivative was washed with CH2Cl2, filtered and collected.

reactant | KOH | 1.34 g | [OH-].[K+]
reactant | 2,6-dihydroxynaphthalene | 10 mmol, 1.6g | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | diethyl(4-bromobutyl)phosphonate | 22 mmol, 6.0 g | C(C)OP(OCC)(=O)CCCCBr | C8H18BrO3P
solvent | ethanol | C(C)O | C2H6O
product | 2,6Bis(4-phosphonobutyloxy)-naphthalene | P(=O)(O)(O)CCCCOC1=CC2=CC=C(C=C2C=C1)OCCCCP(=O)(O)O | C18H26O8P2
